US04210658
N, N'-bis-[2-(3-chloropyrid-2-ylmethylthio)ethyl]amidinosulphonic acid
A solution of 2-(3-chloropyrid-2 ylmethylthio)ethylamine (4.06 g) in dry acetonitrile (200 ml) was added dropwise, with stirring, to a solution of 1-methylthio-1-methyliminomethanesulphonate (1.69 g) in dry acetonitrile (150 ml) at 50°. The mixture was stirred at 60° for 1 hour and then allowed to cool. The mixture was evaporated to dryness, dissolved in methanol and absorbed onto silica gel. Chromatography on a column of silica gel produced a viscous oil which was collected by eluting the column with a chloroform/methanol mixture and evaporating off the solvent. The viscous oil analysed by microanalysis and nuclear magnetic resonance spectroscopy to the title compound.

reactant | 2-(3-chloropyrid-2 ylmethylthio)ethylamine | 4.06 g | ClC=1C(=NC=CC1)CSCCN | C8H11ClN2S
reactant | 1-methylthio-1-methyliminomethanesulphonate | 1.69 g | CSC(S(=O)(=O)[O-])=NC
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N, N'-bis-[2-(3-chloropyrid-2-ylmethylthio)ethyl]amidinosulphonic acid | ClC=1C(=NC=CC1)CSCCNC(=NCCSCC1=NC=CC=C1Cl)S(=O)(=O)O | C17H20Cl2N4O3S3
